### PR TITLE
Rezk completion subobject classifier

### PR DESCRIPTION
**Pull request by KobeWullaert**

### CODE REVIEW

**Comment by KobeWullaert** [comment]
The failure of the sanity check, is this due to the additions in Foundations?

**Comment by arnoudvanderleer** [comment]
You can see what failed by clicking on the specific test. It will scroll to the point where it stopped: https://github.com/UniMath/UniMath/actions/runs/14270305932/job/40001785132?pr=2017

File: UniMath/Foundations/PartB.v [hunk 1]
```diff
@@ -533,6 +533,18 @@ Proof.
     apply (IHn _ is).
 Defined.
 
+Lemma contr_to_contr_paths {A : UU}
+  : iscontr A → (∏ a b : A, iscontr (a = b)).
```
Comment (arnoudvanderleer) [inline UniMath/Foundations/PartB.v:537]: This signature is actually `iscontr A -> isaprop A`, right? This already has a name: `isapropifcontr`.
See also [the corresponding tutorial](https://github.com/UniMath/UniMath/blob/master/documentation/guides/tutorials/t04-htypes.md#mere-propositions) for a cheat sheet.

File: UniMath/Foundations/PartA.v [hunk 2]
```diff
@@ -1023,6 +1023,17 @@ Proof.
   apply (maponpaths pr1 (pr2 isc Hi)).
 Defined.
 
+Lemma iscontr_prod (X Y : UU)
+  : iscontr X -> iscontr Y -> iscontr (X × Y).
```
Comment (arnoudvanderleer) [inline UniMath/Foundations/PartA.v:1027]: This is useful to have. Afaik, the right place to add new material "to foundations" is in the corresponding file in `MoreFoundations`. Can you move it there, and add a line to the cheat sheet/block about contractibility in the [tutorial about htypes](https://github.com/UniMath/UniMath/blob/master/documentation/guides/tutorials/t04-htypes.md#mere-propositions)?

Comment (arnoudvanderleer) [reply UniMath/Foundations/PartA.v:1027]: And can you make it an alias for `isofhleveldirprod`?

Comment (KobeWullaert) [reply UniMath/Foundations/PartA.v]: I've moved it into MoreFoundations/PartA.v
If there is a more suitable place, let me know.

File: UniMath/MoreFoundations/PartA.v [hunk 3]
```diff
@@ -409,6 +409,13 @@ Proof.
   apply HB.
 Defined.
 
+Lemma iscontr_prod (X Y : UU)
+  : iscontr X -> iscontr Y -> iscontr (X × Y).
+Proof.
+  intros h₀ h₁.
+  exact (isofhleveldirprod 0 _ _ h₀ h₁).
```
Comment (arnoudvanderleer) [inline UniMath/MoreFoundations/PartA.v:416]: Is there a reason why you did not do this?
```suggestion
  exact (isofhleveldirprod 0 _ _).
```

Comment (KobeWullaert) [reply UniMath/MoreFoundations/PartA.v]: > Much better! Is there a reason why you did not do this?

No, there is no reason.

File: UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/SubobjectClassifier.v [hunk 4]
```diff
@@ -0,0 +1,148 @@
+(*
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/SubobjectClassifier.v:1]:
```suggestion
(**
```

File: UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/SubobjectClassifier.v [hunk 5]
```diff
@@ -0,0 +1,148 @@
...
+  The universal property of the Rezk completion states that for every functor F : C₁ → C₂, with C₂ univalent, extends along the (unit of the) Rezk completion to a functor F' : RC(C₂) → C₃.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/LiftPreservation/SubobjectClassifier.v:2]: This sentence seems off
```suggestion
  The universal property of the Rezk completion states that for every functor F : C₁ → C₂, with C₂ univalent, extends along the (unit of the) Rezk completion to a functor F' : RC(C₁) → C₂.
```

File: UniMath/CategoryTheory/WeakEquivalences/Reflection/SubobjectClassifier.v [hunk 6]
```diff
@@ -0,0 +1,186 @@
...
+    {F : C ⟶ D} (Fw : is_weak_equiv F) (T_D : isTerminal D (F T_C)).
+
+  Let image_of_terminal_is_terminal : Terminal D
+    := F T_C ,, T_D.
+
+  Context {Ω : ob C} (tr : C⟦T_C, Ω⟧)
+    (is_cl : is_subobject_classifier (C := D) image_of_terminal_is_terminal _ (#F tr)).
+
+  Let Ω₀ : subobject_classifier (_,,T_D)
+      := make_subobject_classifier _ _ is_cl.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Reflection/SubobjectClassifier.v:38]: The indenting here is inconsistent
```suggestion
     := make_subobject_classifier _ _ is_cl.
```

File: UniMath/CategoryTheory/WeakEquivalences/Reflection/SubobjectClassifier.v [hunk 7]
```diff
@@ -0,0 +1,186 @@
...
+      apply image_of_terminal_is_terminal.
+    }
+    apply maponpaths.
+    apply functor_on_fully_faithful_inv_hom.
+  Qed.
+
+  Lemma classifying_map_square_isPullback
+    : isPullback classifying_map_square.
+  Proof.
+    use (Pullbacks.weak_equiv_reflects_pullbacks Fw).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Reflection/SubobjectClassifier.v:67]:
```suggestion
    use (weak_equiv_reflects_pullbacks Fw).
```
Why not this? And if this doesn't work, then the right files should be imported

File: UniMath/CategoryTheory/WeakEquivalences/Reflection/SubobjectClassifier.v [hunk 8]
```diff
@@ -0,0 +1,186 @@
...
+
+End WeakEquivalencesReflectSubobjectClassifiersExistence.
+
+Section WeakEquivalencesReflectSubobjectClassifiers₀.
+
+   Context {C D : category} (T_C : Terminal C)
+     {F : C ⟶ D} (Fw : is_weak_equiv F).
+
+   Let T_D : Terminal D
+       := make_Terminal _ (weak_equiv_preserves_terminal _ Fw T_C (pr2 T_C)).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Reflection/SubobjectClassifier.v:103]:
```suggestion
      := make_Terminal _ (weak_equiv_preserves_terminal _ Fw T_C (pr2 T_C)).
```

File: UniMath/CategoryTheory/WeakEquivalences/Reflection/SubobjectClassifier.v [hunk 9]
```diff
@@ -0,0 +1,186 @@
...
+    apply maponpaths_2.
+    apply pathsinv0, functor_on_terminal_arrow.
+  Qed.
+
+  Lemma weak_equiv_reflects_subobject_classifier_uvp_reflected_pullback'
+    {x y : ob C} {m : Monic C x y}
+    (ϕ : ∑ (χ : C ⟦ y, Ω ⟧) (H : m · χ = TerminalArrow T_C x · tr), isPullback H)
+    :   isPullback (pb_square ϕ).
+  Proof.
+    use (Pullbacks.weak_equiv_preserves_pullbacks Fw).
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Reflection/SubobjectClassifier.v:133]:
```suggestion
    use (weak_equiv_preserves_pullbacks Fw).
```

File: UniMath/CategoryTheory/WeakEquivalences/Reflection/SubobjectClassifier.v [hunk 10]
```diff
@@ -0,0 +1,186 @@
...
+    : isPullback (pb_square' ϕ).
+  Proof.
+    use (isPullback_mor_paths _ _ _ _ _ _ (weak_equiv_reflects_subobject_classifier_uvp_reflected_pullback' ϕ)) ; try (apply idpath).
+    apply functor_on_terminal_arrow.
+  Qed.
+
+  Lemma weak_equiv_reflects_subobject_classifier_uvp_uniqueness
+    {x y : ob C} (m : Monics.Monic C x y)
+    : isaprop (∑ (χ : C ⟦ y, Ω ⟧)
+                 (H : Monics.MonicArrow C m · χ = TerminalArrow T_C x · tr),
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Reflection/SubobjectClassifier.v:150]:
```suggestion
                 (H : MonicArrow C m · χ = TerminalArrow T_C x · tr),
```

File: UniMath/CategoryTheory/WeakEquivalences/Reflection/SubobjectClassifier.v [hunk 11]
```diff
@@ -0,0 +1,186 @@
...
+          Pullbacks.isPullback H
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Reflection/SubobjectClassifier.v:151]:
```suggestion
          isPullback H
```

File: UniMath/CategoryTheory/WeakEquivalences/Reflection/SubobjectClassifier.v [hunk 12]
```diff
@@ -0,0 +1,186 @@
...
+        ).
+  Proof.
+    use invproofirrelevance.
+    intros ϕ₁ ϕ₂.
+    use subtypePath.
+    { intro ; use isaproptotal2.
+      { intro ; apply Pullbacks.isaprop_isPullback. }
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Reflection/SubobjectClassifier.v:158]:
```suggestion
      { intro ; apply isaprop_isPullback. }
```

File: UniMath/CategoryTheory/WeakEquivalences/Preservation/SubobjectClassifier.v [hunk 13]
```diff
@@ -0,0 +1,355 @@
...
+Corollary weak_equiv_creates_subobject_classifier
+  {C1 C2 : category}
+  {F : C1 ⟶ C2}
+  (Fw : is_weak_equiv F)
+  (T1 : Terminal C1)
+  (P1 : subobject_classifier T1)
+  : subobject_classifier (make_Terminal _ (weak_equiv_preserves_terminal _ Fw _ (pr2 T1))).
+Proof.
+  exact (weak_equiv_creates_subobject_classifier' Fw T1 _ P1).
+Qed.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Preservation/SubobjectClassifier.v:355]:
```suggestion
Defined.
```

File: UniMath/CategoryTheory/WeakEquivalences/Preservation/SubobjectClassifier.v [hunk 14]
```diff
@@ -0,0 +1,355 @@
...
+  {F : C1 ⟶ C2}
+  (Fw : is_weak_equiv F)
+  (T1 : Terminal C1)
+  (T2 : Terminal C2)
+  (P1 : subobject_classifier T1)
+  : subobject_classifier T2.
+Proof.
+  set (P_2 := weak_equiv_preserves_subobject_classifier Fw T1 T2 P1 (pr12 P1) (pr22 P1)).
+  exact (make_subobject_classifier _ _ P_2).
+Qed.
```
Comment (nmvdw) [inline UniMath/CategoryTheory/WeakEquivalences/Preservation/SubobjectClassifier.v:344]:
```suggestion
Defined.
```
Why not `Defined`?

File: UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/BinProducts.v [hunk 15]
```diff
@@ -0,0 +1,91 @@
...
+
+  Lemma disp_2cells_iscontr_chosen_binproducts
+    : disp_2cells_iscontr disp_bicat_chosen_binproducts.
+  Proof.
+    apply disp_2cells_iscontr_subbicat.
+  Qed.
+
+End CategoriesWithChosenBinProductsAndPreservationUpToEquality.
+
+Section CategoriesWithExistingBinProductsAndPreservationIsCreation.
```
Comment (nmvdw) [inline UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/BinProducts.v:50]: What do you mean with 'Preservation is creation'?

File: UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/BinProducts.v [hunk 16]
```diff
@@ -0,0 +1,91 @@
...
+
+  Lemma disp_2cells_iscontr_have_binproducts
+    : disp_2cells_iscontr disp_bicat_have_binproducts.
+  Proof.
+    apply disp_2cells_iscontr_subbicat.
+  Qed.
+
+End CategoriesWithExistingBinProductsAndPreservationIsCreation.
+
+Section CategoriesWithChosenBinProductsAndPreservationIsCreation.
```
Comment (nmvdw) [inline UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/BinProducts.v:74]: What do you mean with preservation is creation?

File: UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/SubobjectClassifier.v [hunk 17]
```diff
@@ -0,0 +1,55 @@
...
+Require Import UniMath.Bicategories.Core.Examples.BicatOfCats.
+Require Import UniMath.Bicategories.DisplayedBicats.DispBicat. Import DispBicat.Notations.
+Require Import UniMath.Bicategories.DisplayedBicats.Examples.Sub1Cell.
+Require Import UniMath.Bicategories.DisplayedBicats.Examples.Sigma.
+
+Require Import UniMath.Bicategories.DisplayedBicats.Examples.CategoriesWithStructure.FiniteLimits.
+
+Local Open Scope cat.
+
+Section LexCategoriesWithChosenSubobjectClassifierAndPreservationIsCreation.
```
Comment (nmvdw) [inline UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/SubobjectClassifier.v:25]: Why do you use categories with finite limits here? Why not categories with only a terminal object?

File: UniMath/Bicategories/RezkCompletions/StructuredCats/BinProducts.v [hunk 18]
```diff
@@ -119,4 +129,41 @@ Section CategoriesWithBinProductsAdmitRezkCompletions.
...
+  Corollary disp_bicat_chosen_binproducts_has_Rezk_completions
+    : cat_with_structure_has_RezkCompletion disp_bicat_chosen_binproducts.
+  Proof.
+    apply (make_RezkCompletion_from_locally_contractible _ _ disp_bicat_chosen_binproducts_has_RC).
+    exact disp_2cells_iscontr_chosen_binproducts.
+  Defined.
+
+End CategoriesWithChosenBinProductsAndPreservationUpToEqualityHasRezkCompletions.
+
+Section CategoriesWithChosenBinProductsAndPreservationIsCreationHasRezkCompletions.
```
Comment (nmvdw) [inline UniMath/Bicategories/RezkCompletions/StructuredCats/BinProducts.v:141]: Why 'Preservation is creation'?

**Review by nmvdw — APPROVED** [review]

File: UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/BinProducts.v (hunk 15 above)
Comment (KobeWullaert) [reply UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/BinProducts.v:50]: The functors create products in the codomain, from the products in the domain.

File: UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/FiniteLimits.v [hunk 19]
```diff
@@ -0,0 +1,113 @@
...
+Require Import UniMath.Bicategories.DisplayedBicats.Examples.CategoriesWithStructure.Terminal.
+Require Import UniMath.Bicategories.DisplayedBicats.Examples.CategoriesWithStructure.BinProducts.
+Require Import UniMath.Bicategories.DisplayedBicats.Examples.CategoriesWithStructure.Pullbacks.
+Require Import UniMath.Bicategories.DisplayedBicats.Examples.CategoriesWithStructure.Equalizers.
+
+Local Open Scope cat.
+
+Section CategoriesWithChosenFiniteLimitsAndPreservationIsCreation.
+
+  Definition disp_bicat_limits : disp_bicat bicat_of_cats
```
[the remark this answers is not in the document]
Comment (KobeWullaert) [reply UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/FiniteLimits.v:47]: I know, but this redundancy is added for ease of use afterwards.
In particular, we have proven the preservation properties for the weak equivalences for the 4 types of limits. We did not conclude e.g., the preservation of products from the preservation of terminal objects and pullbacks.

File: UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/BinProducts.v (hunk 15 above)
Comment (KobeWullaert) [reply UniMath/Bicategories/DisplayedBicats/Examples/CategoriesWithStructure/BinProducts.v:50]: Ok! I will change this.

**Comment by rmatthes** [comment]
"Error: The variable weak_equiv_reflects_pullbacks was not found"
